US03962321
To a flask equipped with a reflux condenser, mechanical stirrer and dropping funnel is added trans-2-nonenol (14.2 g, 0.1 mole), N1N-dimethylaniline (12 g, 0.1 mole) and 20 ml ether. To the stirred mixture is added dropwise phenylacetyl chloride (15.5 g, 0.1 mole) at a rate to maintain a vigorous reflux of ether. After the addition, the mixture is warmed on a water bath for 2 hours and then allowed to stand several hours. The ether layer is separated from the precipitate and extracted with 10% sulfuric acid. The ether layer is dried over anhydrous sodium sulfide and purified up to give trans-2-nonenyl phenylacetate.

reactant | trans-2-nonenol | 0.1 mole, 14.2 g | C(\C=C\CCCCCC)O | C9H18O
reactant | phenylacetyl chloride | 0.1 mole, 15.5 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | ether | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | trans-2-nonenyl phenylacetate | C1(=CC=CC=C1)CC(=O)OC\C=C\CCCCCC | C17H24O2
